### PR TITLE
Add Andrica's conjecture

### PR DESCRIPTION
**Pull request by Reklle**

### CODE REVIEW

File: FormalConjectures/Wikipedia/Andrica.lean [hunk 1]
```diff
@@ -0,0 +1,30 @@
...
+# Andrica's conjecture
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Andrica%27s_conjecture)
+-/
+@[category research open, AMS 11]
+theorem andrica_conjecture :
+  ∀ (n : ℕ),
+    let prev := Nat.nth Prime n;
+    let next := Nat.nth Prime (n+1);
+    Real.sqrt next - Real.sqrt prev < 1 := by
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/Andrica.lean]: I don't see why you'd like to use `Nat`, and I think it looks better if you use dot notations, i.e. `n.nth Prime` and `(n+1).nth Prime`.

Comment (Reklle) [reply FormalConjectures/Wikipedia/Andrica.lean]: Сorrected. I'm just learning, so I don't know much about style yet

File: FormalConjectures/Wikipedia/Andrica.lean [hunk 2]
```diff
@@ -0,0 +1,33 @@
...
+-/
+
+/--
+The inequality `√pₙ₊₁-√pₙ < 1` holds for all `n`.
+-/
+@[category research open, AMS 11]
+theorem andrica_conjecture (n : ℕ) :
+    let prev := n.nth Prime;
+    let next := (n+1).nth Prime;
+    next.sqrt - prev.sqrt < 1 := by
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/Andrica.lean]: You should use `Real.sqrt` (as you originally did) instead of `Nat.sqrt`, which takes the floor, so `5.sqrt = 3` and `3.sqrt = 2`, making the conjecture false.
```suggestion
theorem andrica_conjecture (n : ℕ) :
    Real.sqrt ((n+1).nth Prime) - Real.sqrt (n.nth Prime) < 1 := by
```
(by the way, there's no need of `;` at the end of `let` declarations.

File: FormalConjectures/Wikipedia/Andrica.lean (hunk 1 above)
Comment (alreadydone) [reply FormalConjectures/Wikipedia/Andrica.lean]: sorry, I meant I don't see why you need to use `let`

Comment (Reklle) [reply FormalConjectures/Wikipedia/Andrica.lean]: I think it looks more readable than in one line

File: FormalConjectures/Wikipedia/Andrica.lean (hunk 2 above)
Comment (Reklle) [reply FormalConjectures/Wikipedia/Andrica.lean]: Thank you, I will remember! I fixed it.

File: FormalConjectures/Wikipedia/Andrica.lean [hunk 3]
```diff
@@ -0,0 +1,30 @@
...
+/-!
+# Andrica's conjecture
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Andrica%27s_conjecture)
+-/
+
+/--
+The inequality `√pₙ₊₁-√pₙ < 1` holds for all `n`.
+-/
+@[category research open, AMS 11]theorem andrica_conjecture (n : ℕ) :
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Andrica.lean]:
```suggestion
@[category research open, AMS 11]
theorem andrica_conjecture (n : ℕ) :
```

**Review by callesonne — COMMENTED** [review]
Thanks for contributing this! If you want, I would suggest adding the variant with `g_n < 2 \sqrt{p_n} + 1` from the wiki also.

File: FormalConjectures/Wikipedia/Andrica.lean [hunk 4]
```diff
@@ -0,0 +1,31 @@
...
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Andrica's conjecture
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Andrica%27s_conjecture)
+-/
+
+/--
+The inequality `√pₙ₊₁-√pₙ < 1` holds for all `n`.
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Andrica.lean]: nit: could also use latex for the docstring here

Comment (mo271) [inline FormalConjectures/Wikipedia/Andrica.lean]: nit: could also use latex for the docstring here, and perhaps also mention $p_n$ denotes the $n$-th prime

**Review by mo271 — APPROVED** [review]
Thanks! LGTM

File: FormalConjectures/Wikipedia/Andrica.lean (hunk 4 above)
Comment (Reklle) [reply FormalConjectures/Wikipedia/Andrica.lean]: Yeah, I like latex better too.

File: FormalConjectures/Wikipedia/Andrica.lean [hunk 5]
```diff
@@ -0,0 +1,31 @@
...
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Andrica's conjecture
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Andrica%27s_conjecture)
+-/
+
+/--
+The inequality $\sqrt{p_{n+1}}-\sqrt{p_n} \le 1$ holds for all $n$, where $p_n$ is the nth prime number.
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Andrica.lean]:
```suggestion
The inequality $\sqrt{p_{n+1}}-\sqrt{p_n} < 1$ holds for all $n$, where $p_n$ is the nth prime number.
```

**Review by Paul-Lez — APPROVED** [review]
Thanks for the PR!

File: FormalConjectures/Wikipedia/Andrica.lean (hunk 3 above)
Comment (Reklle) [reply FormalConjectures/Wikipedia/Andrica.lean]: As I know, there is no prime gap function, and the variant looks like a simple consequence. Or should it be added?

Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/Andrica.lean]: In this case it would be fine to just inline the definition of the prime gap function. That being said, this does look like an easy reformulation, so this doesn't have to be added/can be added later (having reformulations is a great way to detect misformalisations for example!)
